US04298602
5-Phenyl-1-(2-pyridinyl)1H-1,2,4-triazol-3-ol
A mixture was prepared by admixing 1.84 g (0.00718 m) of 2-benzoyl-2-(2-pyridinyl)hydrazinecarboxamide with 30 ml of 10 percent sodium hydroxide. The mixture was warmed to 50° C. to dissolve the carboxamide. The solution was held at 50° C. for 10 minutes and the reaction mixture was cooled to room temperature. The reaction product was acidified with 30 ml or 50 percent acetic acid and the white solid which precipitated was recovered by filtration, washed with water and air dried. The 5-phenyl-1-(2-pyridinyl)-1H-1,2,4-triazol-3-ol product was recovered in a yield of 1.12 g (66 percent of theoretical). The product melted at 240°-241° C. and upon analysis was found to have carbon, hydrogen and nitrogen contents of 64.83, 4.35 and 22.46 percent, respectively, as compared with the theoretical contents of 65.53, 4.23 and 23.52.

reactant | 2-benzoyl-2-(2-pyridinyl)hydrazinecarboxamide | 1.84 g | C(C1=CC=CC=C1)(=O)N(NC(=O)N)C1=NC=CC=C1 | C13H12N4O2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Phenyl-1-(2-pyridinyl)1H-1,2,4-triazol-3-ol | C1(=CC=CC=C1)C1=NC(=NN1C1=NC=CC=C1)O | C13H10N4O
